US05650533
Iron powder (0.5 g) and iodine (0.05 g) were added to a solution of 2-chloro-6-(methylsulphenyl)benzonitrile (10.0 g) in a mixture of carbon tetrachloride and dichloromethane. The mixture was warmed to 30° C. and bromine (9.5 g) was added. The mixture was heated at 55° C. for 5 hours. It was cooled, washed with aqueous sodium bisulphite, water, dried (MgSO4) and filtered. The filtrate was evaporated to dryness and the residue was redissolved in a mixture of carbon tetrachloride and dichloromethane and treated with iron powder (0.5 g) and iodine (0.05 g). Bromine (6.5 g) was added and the mixture was heated at 55° C. for 5 hours. It was cooled and washed with sodium bisulphite, water, dried (MgSO4) and filtered. The filtrate was evaporated to dryness and the residue was purified by column chromatography eluted with a mixture of ethyl acetate and n-hexane to give 3-bromo-2-chloro-6-(methylsulphenyl)benzonitrile (6.51 g) as an orange solid NMR (CDCl3) 2.5(s,3H) 7.0(d, 1H) 7.65(d, 1H).

reactant | 2-chloro-6-(methylsulphenyl)benzonitrile | 10.0 g | ClC1=C(C#N)C(=CC=C1)SC | C8H6ClNS
reactant | bromine | 9.5 g | BrBr | Br2
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | Iron | 0.5 g | [Fe] | Fe
catalyst | iodine | 0.05 g | II | I2
product | 3-bromo-2-chloro-6-(methylsulphenyl)benzonitrile | 6.51 g | BrC=1C(=C(C#N)C(=CC1)SC)Cl | C8H5BrClNS
